US04596814
1,2-Dihydro-6-methoxy-1-phenyl-4H-3,1-benzoxazine-4-one
A mixture of 15.0 g (0.062 mole) of 5-methoxy-2-(phenylamino)benzoic acid and 75 ml of 37% aqueous formaldehyde solution in 75 ml of ethanol was heated on the steam bath for 75 minutes. The mixture was cooled and added to 400 g ice/water. The crude oxazine product was filtered, stirred in 75 ml of 5% aqueous sodium bicarbonate, and refiltered to yield 13.0 g (83% yield) of the product, mp 99.5°-101° C. A sample recrystallized from hexane was analytically pure, mp 100°-102° C.

reactant | 5-methoxy-2-(phenylamino)benzoic acid | 0.062 mole, 15.0 g | COC=1C=CC(=C(C(=O)O)C1)NC1=CC=CC=C1 | C14H13NO3
reactant | formaldehyde | 75 ml | C=O | CH2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1,2-Dihydro-6-methoxy-1-phenyl-4H-3,1-benzoxazine-4-one | 13.0 g, 83% yield | COC=1C=CC2=C(C(OCN2C2=CC=CC=C2)=O)C1 | C15H13NO3
